US08420642B2
5-Chloro-3-pyridinol (15.3 mmol) is dissolved in concentrated H2SO4 (15 ml). At 5° C. concentrated nitric acid (0.9 ml) is added. The reaction mixture is allowed to warm to room temperature over 6 days. The reaction solution is pored onto ice (50 ml) and diluted with water (200 ml). The precipitate is filtered, washed with water and dried at 40° C. in vacuo. 5-Chloro-2-nitro-pyridine-3-ol is obtained as yellow powder; mp. 97°; LC-MS (method B): 1.35 min, 175.1 (M+H+).

reactant | 5-Chloro-3-pyridinol | 15.3 mmol | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | nitric acid | 0.9 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 15 ml | OS(=O)(=O)O | H2O4S
solvent | water | 200 ml | O | H2O
product | 5-Chloro-2-nitro-pyridine-3-ol | ClC=1C=C(C(=NC1)[N+](=O)[O-])O | C5H3ClN2O3
